US06960614B2
To a solution of 2-(3-hydroxy-propoxy)-isoindole-1,3-dione (17.5 g, 79.1 mmol) and imidazole (5.92 g, 86.1 mmol) in dichloromethane (200 mL) was added tert-butyldimethylsilyl chloride (13.2 g, 86.1 mmol). After 30 min, the reaction was transferred to a separatory funnel and shaken with dilute aqueous hydrochloric acid (400 mL). The organic layer was washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate and concentrated in vacuo to afford 2-[3-(tert-Butyl-dimethyl-silanyloxy)-propoxy]-isoindole-1,3-dione (26.3 g, 99% yield) as a viscous liquid: 1H NMR (400 MHz, CDCl3) δ 7.76 (m, 2H), 7.67 (m, 2H), 4.25 (t, 2H, J=5.9 Hz), 3.77 (t, 2H, J=6.0 Hz), 1.91 (quintet, 2H, J=6.1 Hz), 0.82 (s, 9H), 0.00 (s, 6H).

reactant | 2-(3-hydroxy-propoxy)-isoindole-1,3-dione | 79.1 mmol, 17.5 g | OCCCON1C(C2=CC=CC=C2C1=O)=O | C11H11NO4
reactant | imidazole | 86.1 mmol, 5.92 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 86.1 mmol, 13.2 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | hydrochloric acid | 400 mL | Cl | ClH
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2-[3-(tert-Butyl-dimethyl-silanyloxy)-propoxy]-isoindole-1,3-dione | 26.3 g, 99% yield | C(C)(C)(C)[Si](OCCCON1C(C2=CC=CC=C2C1=O)=O)(C)C | C17H25NO4Si
